US08470847B2
2.2: (±)-2-Amino-1-ethyl-7-[(3-hydroxytetrahydrofuran-3-yl)ethynyl]-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
A suspension of 0.3 g (2.24 mmol) of 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide in 17 ml of a dimethylformamide/triethylamine mixture (V/V; 2/1) is placed in a 10 ml microwave tube. This suspension is sparged with argon for 10 minutes and then 0.319 g (2.79 mmol) of (±)-3-ethynyltetrahydro-3-furanol, 0.043 g of CuI (0.23 mmol) and 0.079 g of bis(triphenylphosphine) palladium(II)dichloride (0.11 mmol) are successively added.

reactant | 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 2.24 mmol, 0.3 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
reactant | (±)-3-ethynyltetrahydro-3-furanol | 2.79 mmol, 0.319 g | C(#C)C1(COCC1)O | C6H8O2
solvent | dimethylformamide triethylamine | 17 ml | CN(C=O)C.C(C)N(CC)CC
catalyst | CuI | 0.23 mmol, 0.043 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II)dichloride | 0.11 mmol, 0.079 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-1-ethyl-7-[(3-hydroxytetrahydrofuran-3-yl)ethynyl]-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC1(COCC1)O)CC | C18H20N4O4
